US07579488B2
Preparation of [(5-{1-[4-(3,3-Dimethyl-2-oxo-cyclohexyloxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carbonyl)-methyl-amino]-acetic acid
A solution of 5-{1-[4-(3,3-Dimethyl-2-oxo-cyclohexyloxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carboxylic acid (153 mg, 0.331 mmol) (from example R2), EDC (94 mg, 0.496 mmol), HOBT (47 mg, 0.347 mmol), triethylamine (0.2 ml, 1.3 mmol), and sarcosine ethyl ester hydrochloride (76 mg, 0.496 mmol) were reacted followed by base hydrolysis as in Example 74 to yield (55 mg, 34%) MS (ES) m/e: 532.3 (M−1)

reactant | 5-{1-[4-(3,3-Dimethyl-2-oxo-cyclohexyloxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carboxylic acid | 0.331 mmol, 153 mg | CC1(C(C(CCC1)OC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(C=C(O2)C(=O)O)C1)C)=O)C | C29H34O5
reactant | EDC | 0.496 mmol, 94 mg
reactant | HOBT | 0.347 mmol, 47 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 1.3 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | sarcosine ethyl ester hydrochloride | 0.496 mmol, 76 mg | Cl.C(C)OC(CNC)=O
product | [(5-{1-[4-(3,3-Dimethyl-2-oxo-cyclohexyloxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carbonyl)-methyl-amino]-acetic acid | CC1(C(C(CCC1)OC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(C=C(O2)C(=O)N(C)CC(=O)O)C1)C)=O)C | C32H39NO6
